US05171882
B. Preparation of 3-(4-hydroxyphenoxy)benzoic acid
A mixture of 73 g of 3-(4-methoxyphenoxy)benzoic acid, 300 ml of 48% hydrobromic acid, and 600 ml of acetic acid was heated at reflux for 48 hours. The reaction mixture was allowed to cool to ambient temperature, poured into cold water, and extracted with ethyl acetate. The organic extracts were dried and concentrated in vacuo. The residue was crystallized from ethyl/hexane providing 39.41 g of the desired subtitle intermediate, m.p. 172°-174° C.

reactant | 3-(4-methoxyphenoxy)benzoic acid | 73 g | COC1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1 | C14H12O4
reactant | hydrobromic acid | 300 ml | Br | BrH
reactant | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(4-hydroxyphenoxy)benzoic acid | OC1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1 | C13H10O4
